US06649618B2
b) 1-[3-(methylamino)propyl]-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione
A solution of 4.29 g (13.11 mmol) of 1-{3-[benzyl(methyl)amino]propyl}-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione in a mixture of 50 ml of methanol and 10 ml of tetrahydrofuran is admixed with 5.6 mg of 10% palladium-on-carbon. Over a period of 45 minutes, three portions of in total 8.61 g (136.6 mmol) of ammonium formate are then added. After the addition has ended, the mixture is heated at reflux for 1.5 hours. After cooling, the mixture if filtered through a little kieselguhr and the solvent is removed under reduced pressure. This gives 2.24 g (9.44 mmol, 72% yield) of the product as a colourless solid.

reactant | 1-{3-[benzyl(methyl)amino]propyl}-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | 13.11 mmol, 4.29 g | C(C1=CC=CC=C1)N(CCCN1C(NC(C=2CCCCC12)=O)=O)C | C19H25N3O2
reactant | ammonium formate | 136.6 mmol, 8.61 g | C(=O)[O-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 5.6 mg | [Pd] | Pd
product | 1-[3-(methylamino)propyl]-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | 9.44 mmol, 2.24 g, 72% yield | CNCCCN1C(NC(C=2CCCCC12)=O)=O | C12H19N3O2
